US06180659B2
2-Chloro-5-nitrobenzaldehyde (5.57 g), 3,5-dimethoxyphenol (4.62 g), potassium carbonate (8.29 g), copper powder (0.2 g), copper (I) iodide (0.6 g) and N-methyl-2-pyrrolidone (60 ml) were mixed together and then stirred under heating at 120° C. for 30 minutes. After cooling the reaction mixture to room temperature, the reaction mixture was filtered. The filtrate was diluted with water and extracted with ethyl acetate. The exacted solution was sequentially washed in water and then an aqueous saturated sodium chloride solution, and dried over anhydrous sodium sulfate. The residue after filtration and concentration was purified by silica gel column chromatography (elution solvent; hexane:ethyl acetate=8:2 to 6:4), to recover 2-(3,5-dimethoxyphenoxy)-5-nitrobenzaldehyde (6.54 g; yield of 72%).

reactant | 2-Chloro-5-nitrobenzaldehyde | 5.57 g | ClC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H4ClNO3
reactant | 3,5-dimethoxyphenol | 4.62 g | COC=1C=C(C=C(C1)OC)O | C8H10O3
reactant | potassium carbonate | 8.29 g | C([O-])([O-])=O.[K+].[K+]
catalyst | copper | 0.2 g | [Cu] | Cu
catalyst | copper (I) iodide | 0.6 g | [Cu]I
solvent | N-methyl-2-pyrrolidone | 60 ml | CN1C(CCC1)=O | C5H9NO
product | 2-(3,5-dimethoxyphenoxy)-5-nitrobenzaldehyde | 6.54 g, yield of 72% | COC=1C=C(OC2=C(C=O)C=C(C=C2)[N+](=O)[O-])C=C(C1)OC | C15H13NO6
